US04252724
To a solution of 3-(4-chlorophenyl)-4-isopropyloxazolidine-2,5-dione (336 mg, 1.32 mmol) and 4-dimethylaminopyridine in 5 ml of dry tetrahydrofuran is added a solution of 3-benzylpyrrolylmethyl alcohol (1.26 mmol) in 3 ml of dry tetrahydrofuran. The reaction mixture is stirred for about 20 hours, under dry air, and then diluted with ether followed by washing with saturated aqueous sodium bicarbonate, water and saturated aqueous sodium chloride. After drying over calcium sulfate, solvent is evaporated. The crude product is chromatographed on a rotary chromatograph eluting with 15% ether/hexane to give 3-benzylpyrrolylmethyl 2-(4-chlorophenylamino)-3-methylbutanoate.

reactant | 3-(4-chlorophenyl)-4-isopropyloxazolidine-2,5-dione | 1.32 mmol, 336 mg | ClC1=CC=C(C=C1)N1C(OC(C1C(C)C)=O)=O | C12H12ClNO3
reactant | 3-benzylpyrrolylmethyl alcohol | 1.26 mmol | C(C1=CC=CC=C1)C1=C(NC=C1)CO | C12H13NO
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 3-benzylpyrrolylmethyl 2-(4-chlorophenylamino)-3-methylbutanoate | ClC1=CC=C(C=C1)NC(C(=O)OCC=1NC=CC1CC1=CC=CC=C1)C(C)C | C23H25ClN2O2
